### PR TITLE
[Merged by Bors] - feat(Real): add bound y * exp(-y) ≤ exp(-1)

### PR DESCRIPTION
**Pull request by jackabatc**
## Summary
- Add `Real.mul_exp_neg_le_exp_neg_one : y * exp (-y) ≤ exp (-1)`.
- Proof is a short consequence of `Real.add_one_le_exp` (via `gcongr`).
- Located in `Mathlib/Analysis/SpecialFunctions/Exp.lean`.

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Exp.lean [hunk 1]
```diff
@@ -210,6 +210,19 @@ theorem tendsto_exp_atTop : Tendsto exp atTop atTop := by
...
+  have h_le : y ≤ exp (y - 1) := by
+    simpa [sub_eq_add_neg, add_assoc, add_left_comm, add_comm] using (add_one_le_exp (y - 1))
+  have h_mul : y * exp (-y) ≤ exp (y - 1) * exp (-y) := by
+    apply mul_le_mul_of_nonneg_right h_le
+    exact le_of_lt (exp_pos (-y))
+  calc
+    y * exp (-y) ≤ exp (y - 1) * exp (-y) := h_mul
+    _ = exp ((y - 1) + (-y)) := by
+      simpa using (exp_add (y - 1) (-y)).symm
+    _ = exp (-1) := by ring_nf
```
Comment (LLaurance) [inline Mathlib/Analysis/SpecialFunctions/Exp.lean]:
```suggestion
  have h_le : y ≤ exp (y - 1) := by simpa using add_one_le_exp (y - 1)
  have h_mul_le : y * rexp (-y) ≤ rexp (y - 1) * rexp (-y) := by gcongr
  simpa [← exp_add, sub_add_eq_add_sub] using h_mul_le
```

**Review by j-loreaux — COMMENTED** [review]
bors merge
